US07674807B2
4-Iodo-3-pentafluoroethyl-1H-pyrazole (12.48 g), copper powder (7.63 g), iodopentafluoroethane (29.50 g) and DMF (60 ml) were set in an autoclave and heated and stirred for 8 hours, maintaining the inside temperature of 120-125° C. After cooling to room temperature, the insoluble material was filtered off through Celite and washed with diethyl ether. The filtrate was diluted with water and extracted with diethyl ether. The organic phase was washed with water and dried over sodium sulfate, and concentrated under the reduced pressure. The crude product was distilled under reduced pressure to obtain 3,4-bis-pentafluoroethyl-1H-pyrazole (1.20 g), bp. 110-115° C./20 mbar.

reactant | 4-Iodo-3-pentafluoroethyl-1H-pyrazole | 12.48 g | IC=1C(=NNC1)C(C(F)(F)F)(F)F | C5H2F5IN2
reactant | iodopentafluoroethane | 29.50 g | IC(C(F)(F)F)(F)F | C2F5I
catalyst | copper | 7.63 g | [Cu] | Cu
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 3,4-bis-pentafluoroethyl-1H-pyrazole | 1.20 g | FC(C(F)(F)F)(C1=NNC=C1C(C(F)(F)F)(F)F)F | C7H2F10N2
